US06723745B2
2-Methyl-2-(2-thienyl)ethylmalonic Acid Diethylester
Sodium hydride (55%, 18.8 g, 0.43 mol) was suspended in dimethylformamide (200 ml), and methylmalonic acid diethylester (50.0 g, 0.29 mol) was slowly added thereto for 30 minutes in an ice bath, and then the reaction solution was stirred for 30 minutes. To the reaction solution was added 2-(2-iodoethyl)thiophene (75.2 g, 0.32 mol) dissolved in dimethylformamide (200 ml) under a nitrogen atmosphere for 15 minutes, and then the reaction mixture was stirred for 4 hours at room temperature. The reaction mixture was poured into ice-cold 10% hydrochloric acid (500 ml), and extracted with ethyl acetate. The organic layer was washed with a saturated aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. The solvent was concentrated under reduced pressure, and the residue was purified by flash chromatography on a silica gel column (elution solvent; hexane:ethyl acetate=10:1-5:1) to afford the title compound (53.1 g, 65% yield) as a colorless oil.

reactant | Sodium hydride | 0.43 mol, 18.8 g | [H-].[Na+]
reactant | methylmalonic acid diethylester | 0.29 mol, 50.0 g | C(C)OC(C(C(=O)OCC)C)=O | C8H14O4
reactant | 2-(2-iodoethyl)thiophene | 0.32 mol, 75.2 g | ICCC=1SC=CC1 | C6H7IS
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 200 ml | CN(C=O)C | C3H7NO
product | 2-Methyl-2-(2-thienyl)ethylmalonic Acid Diethylester | 53.1 g, 65% yield | C(C)OC(C(C(=O)OCC)(C)CCC=1SC=CC1)=O | C14H20O4S
